*Ngspice script

.options savecurrents


Va 6 3 5.23061068922
V0 3 9 0
R1 6 1 1.01458812332k
R2 1 7 2.08463766973k
R3 1 2 3.01303489873k
R4 3 2 4.03070521773k
R5 2 4 3.06211563876k
R6 9 8 2.03687088929k
R7 8 5 1.00498418134k
Id 5 4 1.01940833644m
Gb 7 4 (1,2) 7.25561262206m
Hc 2 5 V0 8.24424618872k

.control
op

print all
.endc

